US08211401B2
To a solution of (5S,12S,16S)-tri-tert-butyl 5-(4-(bis((1-(2-tert-butoxy-2-oxoethyl)-1H-imidazol-2-yl)methyl)amino)butyl)-1-(9H-fluoren-9-yl)-3,6,14-trioxo-2-oxa-4,7,13,15-tetraazaoctadecane-12,16,18-tricarboxylate (84 mg, 0.069 mmol) in DMF (0.50 mL) was added piperidine (0.50 mL). The mixture was stirred at room temperature for 2 hrs. Solvent was evaporated under reduce pressure to afford a residue, which was purified by biotage eluting with 5% MeOH to 25% MeOH in DCM to afford (7S,14S,18S)-tri-tert-butyl 7-amino-1-(1-(2-tert-butoxy-2-oxoethyl)-1H-imidazol-2-yl)-2-((1-(2-tert-butoxy-2-oxoethyl)-1H-imidazol-2-yl)methyl)-8,16-dioxo-2,9,15,17-tetraazaicosane-14,18,20-tricarboxylate (59 mg, 86%). 1H NMR (400 MHz, CDCl3) 6.96 (d, J=0.8 Hz, 2 H), 6.85 (d, J=0.8 Hz, 2 H), 5.55 (brs, 1 H), 5.43 (brs, 1 H), 4.59 (s, 4 H), 4.37-4.28 (m, 2 H), 3.61 (s, 4 H), 3.35-3.27 (m, 2 H), 3.18-3.12 (m, 1 H), 2.53 (t, J=7.4 Hz, 2 H), 2.34-2.28 (m, 2 H), 2.10-2.00 (m, 2 H), 1.85-1.26 (m, 55H); MS (ESI), 503.0 (M/2+H)+.

reactant | (5S,12S,16S)-tri-tert-butyl 5-(4-(bis((1-(2-tert-butoxy-2-oxoethyl)-1H-imidazol-2-yl)methyl)amino)butyl)-1-(9H-fluoren-9-yl)-3,6,14-trioxo-2-oxa-4,7,13,15-tetraazaoctadecane-12,16,18-tricarboxylate | 0.069 mmol, 84 mg | C(C)(C)(C)OC(CN1C(=NC=C1)CN(CCCC[C@H](NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)C(NCCCC[C@H](NC(N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C)=O)CC=1N(C=CN1)CC(OC(C)(C)C)=O)=O | C65H95N9O14
reactant | piperidine | 0.50 mL | N1CCCCC1 | C5H11N
solvent | DMF | 0.50 mL | CN(C)C=O | C3H7NO
product | (7S,14S,18S)-tri-tert-butyl 7-amino-1-(1-(2-tert-butoxy-2-oxoethyl)-1H-imidazol-2-yl)-2-((1-(2-tert-butoxy-2-oxoethyl)-1H-imidazol-2-yl)methyl)-8,16-dioxo-2,9,15,17-tetraazaicosane-14,18,20-tricarboxylate | 59 mg, 86% | N[C@@H](CCCCN(CC=1N(C=CN1)CC(=O)OC(C)(C)C)CC=1N(C=CN1)CC(=O)OC(C)(C)C)C(NCCCC[C@H](NC(N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C)=O | C50H85N9O12
